US05560814
Preparation of N-allyl-S-(N,N-dimethylcarbamoylmethyl)thiouronium chloride
Example 1 was repeated with N-allylthiourea and 2-chloro-N,N-dimethylacetamide, affording the title compound in a yield of 79%.

reactant | N-allylthiourea | C(C=C)NC(=S)N | C4H8N2S
reactant | 2-chloro-N,N-dimethylacetamide | ClCC(=O)N(C)C | C4H8ClNO
product | N-allyl-S-(N,N-dimethylcarbamoylmethyl)thiouronium chloride | yield of 79% | [Cl-].C(C=C)[NH+]=C(SCC(N(C)C)=O)N | InChI=1S/C8H15N3OS.ClH/c1-4-5-10-8(9)13-6-7(12)11(2)3;/h4H,1,5-6H2,2-3H3,(H2,9,10);1H
